* Schematics Netlist *



RT_RVOL         0 3G {(250K*(1-0.5))+.001}
RB_RVOL        3G LINE_IN {(250K*0.5)+.001}
R_R3C         0 3C  4.7k  
R_R4G         0 4G  1.2MEG  
R_R3P         3P V+310  470k  
R_R4C         0 4C  1k  
R_R4P         4P V+310  100k  
R_RLFB         3C BA-  47k  
R_RLOAD         0 LINE_OUT  50k  
C_C3P         3P $N_0001  .1UF  
C_COUT         BA+ LINE_OUT  1UF  
R_R1GS         PHONO_IN 1G  10k  
R_R1G         0 PHONO_IN  47k  
R_R1C         0 1C  1k  
R_R2G         0 2G  1.2MEG  
R_R1P         1P V+280  150k  
R_R2C         0 2C  1k  
R_R2P         2P V+280  100k  
C_C1P         1P 2G  .05UF  
C_C2         $N_0002 LINE_IN  .1UF  
R_RIA2         1C 3FB  4.7MEG  
R_RIA1         3FB $N_0002  100k  
C_CIA2         1C 3FB  2750PF  
C_CIA1         3FB $N_0002  818PF  
V_V+310         V+310 0 DC 310  
V_V+280         V+280 0 DC 280 AC 0 
X_TU1         1P 1G 1C 12AX7
X_TU2         2P 2G 2C 12AX7
X_TU3         3P 3G 3C 12AX7
X_TU4         4P 4G 4C 12AX7
R_RBAL         0 LINE_IN  750k  
C_C2P         2P $N_0002  .1UF  
R_RPFB         1C 2C  47K  
C_C4P         4P BC  .22UF  
R_R4GS         $N_0001 4G  18k  
C_C4F2         SF1 4G  4000PF  
C_CLFB         3C BA-  33PF  
C_C4F1         SF1 $N_0001  1500PF  
R_R4F         0 SF1  3.3MEG  
RT_RBASS         BA+ BC {(750K*(1-(1-PAR1)))+.001}
RB_RBASS        BC BA- {(750K*(1-PAR1))+.001}
RT_RTREB         TR+ $N_0003 {(400K*(1-(1-PARTX)))+.001}
RB_RTREB        $N_0003 TR- {(400K*(1-PARTX))+.001}
C_CTR2         TR+ 0  .02UF  
R_RTR1         3C $N_0003  1k  
C_CTR1         TR- BA-  .002UF  
C_CBS1         BA- BC  .0075UF  
C_CBS2         BC LINE_OUT  .0075UF  
V_VIN         PH_IN 0 DC 0 AC 1 SIN(0  .5  1K)
R_RIV1         PH_IN $N_0004  300  
R_RIV2         $N_0004 $N_0005  2.2MEG  
R_RIV3         $N_0005 PHONO_IN  186K  
C_CIV1         $N_0004 $N_0005  1447PF  
C_CIV2         $N_0005 PHONO_IN  403.1PF  
R_RIV4         0 PHONO_IN  724  
R_RPHIN         0 PH_IN  1G  
